US07807708B2
In a manner similar to that of Example 1d, by reacting 1 g of ethyl 3′-bromo-4′-[3-(tert-butyldimethylsilanyloxy)propoxy]biphenyl-4-carboxylate (2 mmol) with 580 mg of 4-diethylaminophenylboronic acid (3 mmol) in the presence of tetrakis(triphenylphosphine)palladium. 1.15 g of ethyl 4′-[3-(tert-butyldimethylsilanyloxy)propoxy]-4″-diethylamino[1,1′;3′,1″]terphenyl-4-carboxylate (yield=100%) are obtained in the form of a colorless oil.

reactant | ethyl 3′-bromo-4′-[3-(tert-butyldimethylsilanyloxy)propoxy]biphenyl-4-carboxylate | 2 mmol, 1 g | BrC=1C=C(C=CC1OCCCO[Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)C(=O)OCC | C24H33BrO4Si
reactant | 4-diethylaminophenylboronic acid | 3 mmol, 580 mg | C(C)N(C1=CC=C(C=C1)B(O)O)CC | C10H16BNO2
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 4′-[3-(tert-butyldimethylsilanyloxy)propoxy]-4″-diethylamino[1,1′;3′,1″]terphenyl-4-carboxylate | 1.15 g, yield=100% | [Si](C)(C)(C(C)(C)C)OCCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=C(C=C1)N(CC)CC | C34H47NO4Si
